US04199592
To a solution of 4,5-bis(4-methoxyphenyl)-2-nitroimidazole (3.0 g, 9.22 mmole) and triethylamine (7 ml., 51 mmole) in 30 ml. THF at 0° C. under N2 was dropwise added a solution of acetyl chloride (1.3 ml., 18.4 mmole) in 5 ml. THF. After 2 hours at 0° C., the reaction mixture was diluted with ethyl acetate washed with 1 N HCl, saturated aqueous NaHCO3 and brine, dried and concentrated on a rotary evaporator. Crystallization from ether gave approximately 600 mg. of starting material. HPLC of the mother liquor and crystallization from ether gave 1-acetyl 4,5-bis(4-methoxyphenyl)-2-nitroimidazole, mp. 146°-151° C. H-NMR indicates purity >95%. H-NMR: 2.41δ(s, 3H), 3.8δ(s, 3H), 6.73-7.56 δ(2 AB quartets, J=9 Hz, 8H).

reactant | 4,5-bis(4-methoxyphenyl)-2-nitroimidazole | 9.22 mmole, 3.0 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)[N+](=O)[O-] | C17H15N3O4
reactant | triethylamine | 51 mmole, 7 ml | C(C)N(CC)CC | C6H15N
reactant | THF | C1CCOC1 | C4H8O
reactant | acetyl chloride | 18.4 mmole, 1.3 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-acetyl 4,5-bis(4-methoxyphenyl)-2-nitroimidazole | C(C)(=O)N1C(=NC(=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C19H17N3O5
